US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 2-methoxy-benzylamine and DIEA to give 2-(2-methoxy-benzylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 376 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 2-methoxy-benzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(2-methoxy-benzylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | COC1=C(CNC=2S\C(\C(N2)=O)=C/C=2C=C3C=CC=NC3=CC2)C=CC=C1 | C21H17N3O2S
